US05352690
1-Benzyloxy-2-(6-cyano-6-methylheptyloxy)-4-ethyl-6-cyclopentyloxy benzene was prepared in 92% yield as a white solid from 1-Benzyloxy-2-(6-cyano-6-methylheptyloxy)-4-ethyl-6-hydroxy benzene and bromo-cyclopentane.

reactant | 1-Benzyloxy-2-(6-cyano-6-methylheptyloxy)-4-ethyl-6-hydroxy benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1O)CC)OCCCCCC(C)(C)C#N | C24H31NO3
reactant | bromo-cyclopentane | BrC1CCCC1 | C5H9Br
product | 1-Benzyloxy-2-(6-cyano-6-methylheptyloxy)-4-ethyl-6-cyclopentyloxy benzene | 92% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC1CCCC1)CC)OCCCCCC(C)(C)C#N | C29H39NO3
